US07960394B2
8-Methoxy-2-(2-methoxy-4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)-3-methylquinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 1 but starting from 2-amino-3-methoxybenzoic acid, methylamine, 4-hydroxy-2-methoxybenzaldehyde, 1-chloro-3-bromopropane and (3S)-3-methylpiperidine-(R)-mandelate.

reactant | 2-amino-3-methoxybenzoic acid | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
reactant | methylamine | CN | CH5N
reactant | 4-hydroxy-2-methoxybenzaldehyde | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | 1-chloro-3-bromopropane | ClCCCBr | C3H6BrCl
reactant | (3S)-3-methylpiperidine (R)-mandelate | C[C@@H]1CNCCC1.C([C@H](O)C1=CC=CC=C1)(=O)[O-]
product | 8-Methoxy-2-(2-methoxy-4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)-3-methylquinazolin-4(3H)-one | COC=1C=CC=C2C(N(C(=NC12)C1=C(C=C(C=C1)OCCCN1C[C@H](CCC1)C)OC)C)=O | C26H33N3O4
